US04585767
2-(4-Allylthio-3-ethylazetidin-2-on-1-yl)acetic acid
To a stirred solution of 3 g of methyl 2-(4-allylthio-3-ethylazetidin-2-on-1-yl)acetate in 10 ml of absolute ethanol was added dropwise a solution of 0.9 g of potassium hydroxide in a mixture of 12 ml of ethanol and 1 ml of water. After 5 minutes, the mixture was poured into a mixture of 10 ml of dichloromethane and 20 ml of water. After acidification with 13 ml of 2M HCl, the mixture was extracted with further dichloromethane; the dichloromethane extracts were extracted with saturated sodium bicarbonate solution. These aqueous extracts were acidified to pH 1.5 with 5M HCl and then extracted with dichloromethane. These organic extracts were evaporated to dryness to afford the title compound as a white crystalline solid (2.56 g).

reactant | methyl 2-(4-allylthio-3-ethylazetidin-2-on-1-yl)acetate | 3 g | C(C=C)SC1C(C(N1CC(=O)OC)=O)CC | C11H17NO3S
reactant | potassium hydroxide | 0.9 g | [OH-].[K+]
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 12 ml | C(C)O | C2H6O
solvent | water | 1 ml | O | H2O
solvent | water | 20 ml | O | H2O
product | 2-(4-Allylthio-3-ethylazetidin-2-on-1-yl)acetic acid | 2.56 g | C(C=C)SC1C(C(N1CC(=O)O)=O)CC | C10H15NO3S
